US09034866B2
TEMPO (17 mg, 0.11 mmol, 0.33 equiv) and PhI(OAc)2 (255 mg, 0.79 mmol, 2.37 equiv) were added to a stirred suspension of 10-bromo-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (113 mg, 0.33 mmol, 1.00 equiv) in dichloromethane (4 mL) and water (0.8 mL) at 0° C. After 30 min the resulting mixture was warmed to room temperature and stirred overnight. The reaction was then quenched by the addition sodium bicarbonate and washed with dichloromethane. The pH value of the aqueous solution was adjusted to 2 by 2N hydrogen chloride. The aqueous layer was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in to 85 mg (crude) of 10-bromo-2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-6-carboxylic acid as a white solid.

reactant | TEMPO | 0.11 mmol, 17 mg, 0.33 equiv | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | PhI(OAc)2 | 0.79 mmol, 255 mg, 2.37 equiv | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | 10-bromo-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 0.33 mmol, 113 mg, 1.00 equiv | BrC=1C=CC2=C(C=3N(CC(O2)CO)C=C(N3)C(=O)N)C1 | C13H12BrN3O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | water | 0.8 mL | O | H2O
product | 10-bromo-2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-6-carboxylic acid | 85 mg | BrC=1C=CC2=C(C=3N(CC(O2)C(=O)O)C=C(N3)C(N)=O)C1 | C13H10BrN3O4
